US05481001
The procedure described in Example 1 is repeated, but in section a) aniline is used in place of n-pentylamine and n-heptanoyl chloride is used in place of caproyl chloride. N-Phenyl-n-heptenamide (m.p. 50° C.) is obtained in 94% yield. This is reacted with PCl5 as in Example 1, section b), and gives in quantitative yield N-phenyl-heptaneiminoyl chloride as a yellowish oil which is converted according to section c) into the desired product and purified by chromatography on silica gel in hexane/ether=1:1. M.p. 83°-84° C. UV (EtOH): 320 nm (ε=19502).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | n-heptanoyl chloride | C(CCCCCC)(=O)Cl | C7H13ClO
product | N-Phenyl-n-heptenamide | 94% yield | C1(=CC=CC=C1)NC(C=CCCCC)=O | C13H17NO
